US04748186
Triethylamine (0.69 gram, 0.0068 mole) was added to a stirred solution of (3,4,4-trifluoro-3-butenyl) N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-dithiocarbamate (2.0 grams, 0.0057 mole) in dimethylformamide (5.7 ml) at ambient temperature. After addition was complete, the reaction mixture stirred for one hour and was then cooled to 0° C. Methyl iodide (1.0 gram, 0.0063 mole) was added to the cooled mixture. After warming to ambient temperature, the reaction mixture was stirred overnight. The reaction mixture was diluted with water (200 ml) and extracted three times with diethyl ether. The combined extracts were washed with 10% aqueous hydrochloric acid. The dried (magnesium sulfate) extracts were concentrated under reduced pressure, leaving a residue. This residue was passed through a column of silica gel, eluting with hexane to yield the first product (3,4,4-trifluoro-3-butenyl) N-(methyl)-N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)dithiocarbamate (0.45 gram) as a yellow oil. Eluting solvent was then changed to hexane:ethyl acetate (1:1) to yield the second product methyl(3,4,4-trifluoro-3-butenyl) N-(5-trifluoromethyl- 1,3,4-thiadiazol-2-yl)imidodithiocarbonate (0.96 gram) as an orange oil. The NMR spectra were consistent with the proposed structures.

reactant | Triethylamine | 0.0068 mole, 0.69 gram | C(C)N(CC)CC | C6H15N
reactant | (3,4,4-trifluoro-3-butenyl) N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-dithiocarbamate | 0.0057 mole, 2.0 grams | FC(C1=NN=C(S1)NC(SCCC(=C(F)F)F)=S)(F)F | C8H5F6N3S3
reactant | Methyl iodide | 0.0063 mole, 1.0 gram | CI | CH3I
solvent | dimethylformamide | 5.7 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | (3,4,4-trifluoro-3-butenyl) N-(methyl)-N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)dithiocarbamate | 0.45 gram | CN(C(SCCC(=C(F)F)F)=S)C=1SC(=NN1)C(F)(F)F | C9H7F6N3S3
